US05047554
A 0.78 g (4.59 mmoles) sample of 4-acetyl-2-thiophenecarboxylic acid (prepared according to Satonaka, H., Bull. Chem. Soc. Japan 56:2463 (1983)) was combined with 0.95 g (5.85 mmoles) of 1,1'-carbonyldiimidazole in 10 ml of N,N-dimethylformamide and stirred at room temperature under argon atmosphere. After two hours the reaction contents were transferred to an addition funnel and slowly added to a slurry of 0.88 g (4.18 mmoles) of 5-chloro-2-oxindole-1-carboxamide and 1.38 g (11.28 mmoles) of 4-(N,N-dimethylamino)pyridine in 30 ml of N,N-dimethylformamide stirring at 5° C. (ice bath) under an inert atmosphere. The reaction contents were stirred for fifteen minutes at 5° C. after complete addition followed by twenty-four hours at room temperature. Pouring the reaction mixture into 110 ml of 0.3N hydrochloric acid cause the precipitation of a greenish-yellow solid. Filtration followed by sequential washing with 3N hydrochloric acid and water, provided the crude product which was recrystallized twice from acetic acid to give 0.34 g (0.94 mmoles, 22% yield) of pure 5-chloro-3-(4-acetyl-2-thenoyl)-2-oxindole-1-carboxamide as a greenish-yellow solvated complex with 0.2 equivalents of acetic acid, m.p. 230°-233° C.

reactant | 4-acetyl-2-thiophenecarboxylic acid | C(C)(=O)C=1C=C(SC1)C(=O)O | C7H6O3S
reactant | 1,1'-carbonyldiimidazole | 5.85 mmoles, 0.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-chloro-2-oxindole-1-carboxamide | 4.18 mmoles, 0.88 g | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
reactant | hydrochloric acid | 0.3N, 110 ml | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | 11.28 mmoles, 1.38 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-chloro-3-(4-acetyl-2-thenoyl)-2-oxindole-1-carboxamide | 0.94 mmoles, 0.34 g, 22% yield | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)C(C1=CC(=CS1)C(C)=O)=O | C16H11ClN2O4S
